US05106845
A flask containing 2-methylthio-trans-3a,4,5,6,7,7a-hexahydro-1H-benzimidazole hydroiodide (3.00 g, 1.01×10-2 mole) and 3,3-diphenylpropylamine (2.13 g, 1.01×10-2 mole) was immersed in an oil bath which had been preheated to ca. 155° C. The reaction was stirred at between 150°-160° C. for 1 hour. The resulting yellow glass was dissolved in methanol. The solution was treated with charcoal which was subsequently removed by filtration through a pad of celite. The filtrate was evaporated at reduced pressure affording a foam which was dissolved in a stirred, two phase mixture of 5 molar aqueous NaOH (70 ml) and CH2Cl2 (65 ml). After stirring over the weekend, the CH2Cl2 layer was separated. The aqueous alkaline layer was extracted with CH2Cl2 (2×). The CH2Cl2 layers were combined, washed with H2O (2×), washed with saturated aqueous NaCl, and dried over anhydrous Na2SO4. The drying agent was removed by filtration and the filtrate was evaporated at reduced pressure leaving an oil which was dissolved in methanol (43 ml). This solution was cooled to 0° C. before being treated with a methanolic solution of HCl. This solution was treated with charcoal which was subsequently removed by filtration through a pad of celite. The filtrate was evaporated on the steam bath and 2-butanone was added periodically until the temperature approached 80° C. The solution was then placed in the freezer. After ca. 3 days, a solid was collected by filtration. This material was recrystallized two times from methanol/2-butanone affording 2-(3,3-diphenylpropylamino)-trans-3a,4,5,6,7,7a-hexahydro-1H-benzimidazole hydrochloride as a colorless solid: 1.18 g (32%), m.p. 155°-157° C.

reactant | 2-methylthio-trans-3a,4,5,6,7,7a-hexahydro-1H-benzimidazole hydroiodide | 1.01×10-2 mole, 3.00 g | I.CSC1=N[C@H]2[C@H](N1)CCCC2
reactant | 3,3-diphenylpropylamine | 1.01×10-2 mole, 2.13 g | C1(=CC=CC=C1)C(CCN)C1=CC=CC=C1 | C15H17N
reactant | charcoal | C | CH4
reactant | HCl | Cl | ClH
solvent | methanol | CO | CH4O
solvent | NaOH | 5 molar, 70 ml | [OH-].[Na+]
solvent | CH2Cl2 | 65 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 43 ml | CO | CH4O
product | 2-(3,3-diphenylpropylamino)-trans-3a,4,5,6,7,7a-hexahydro-1H-benzimidazole hydrochloride | Cl.C1(=CC=CC=C1)C(CCNC1=N[C@H]2[C@H](N1)CCCC2)C2=CC=CC=C2 | InChI=1S/C22H27N3.ClH/c1-3-9-17(10-4-1)19(18-11-5-2-6-12-18)15-16-23-22-24-20-13-7-8-14-21(20)25-22;/h1-6,9-12,19-21H,7-8,13-16H2,(H2,23,24,25);1H/t20-,21-;/m1./s1
